US07618982B2
5-(3-Benzyloxy-propyl)-piperidine-2,4-dione
To a solution of tert-butyl 2,4-dioxopiperidine-1-carboxylate (3.84 g, 18 mmol) in anhydrous THF (100 mL), cooled at −20° C. under nitrogen atmosphere, 1M LiHMDS in THF (54 mL) was added dropwise. After 20 min under stirring, (3-bromo-propoxymethyl)-benzene (54 mmol) was added and the solution was stirred at −20° C. for 2 hours. The reaction mixture was poured into 5% aq. KHSO4 and extracted with DCM two times. The collected organic layers were concentrated to 500 mL and 50 mL of TFA were added. The resulting solution was stirred at room temperature for 1 hour. After evaporation, the residue was purified by column chromatography (hexane/EtOAc 1:2) affording 3.85 g of the title compound (14.7 mmol, 82%).

reactant | tert-butyl 2,4-dioxopiperidine-1-carboxylate | 18 mmol, 3.84 g | O=C1N(CCC(C1)=O)C(=O)OC(C)(C)C | C10H15NO4
reactant | LiHMDS | 1M | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | (3-bromo-propoxymethyl)-benzene | 54 mmol | BrCCCOCC1=CC=CC=C1 | C10H13BrO
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 54 mL | C1CCOC1 | C4H8O
product | 5-(3-Benzyloxy-propyl)-piperidine-2,4-dione | 14.7 mmol, 3.85 g, 82% | C(C1=CC=CC=C1)OCCCC1C(CC(NC1)=O)=O | C15H19NO3
